US07776869B2
A solution of 1-allyl-4-methylpiperazine (2.12 g, 14.0 mmol) and 9-BBN (0.5 M in THF, 1.7 g, 28 mL, 14.0 mmol) was heated at reflux for 3 h and then cooled to RT. The solution was added to a mixture of 3-bromo-5-(trifluoromethyl)aniline (3.0 o g, 12.5 mmol), potassium carbonate (8.64 g, 62.5 mmol), PdCl2(PPh3)2—CH2Cl2 adduct (0.457 g, 0.6 mmol), DMF (30 mL) and water (2 mL). The mixtre was heated to 75° C. for 24. The mixture was concentrated, triturated with dichloromethane, and filtered. The filtrate was concentrated and the residue was purified via column chromatography on silica gel (gradient elution with 0-20% methanol-dichloromethane) to afford 3-(3-(4-methylpiperazin-1-yl)propyl)-5-(trifluoromethyl)benzenamine as a brown oil. MS m/z=302 [M+H]+. Calc'd for C15H22F3N3: 301.

reactant | 1-allyl-4-methylpiperazine | 14.0 mmol, 2.12 g | C(C=C)N1CCN(CC1)C | C8H16N2
reactant | 9-BBN | 14.0 mmol, 0.5 M, 28 mL, 1.7 g | B1C2CCCC1CCC2 | C8H15B
reactant | 3-bromo-5-(trifluoromethyl)aniline | 12.5 mmol | BrC=1C=C(N)C=C(C1)C(F)(F)F | C7H5BrF3N
reactant | potassium carbonate | 62.5 mmol, 8.64 g | C([O-])([O-])=O.[K+].[K+]
catalyst | PdCl2(PPh3)2 CH2Cl2 | 0.6 mmol, 0.457 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl.C(Cl)Cl
solvent | water | 2 mL | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 3-(3-(4-methylpiperazin-1-yl)propyl)-5-(trifluoromethyl)benzenamine | CN1CCN(CC1)CCCC=1C=C(C=C(C1)C(F)(F)F)N | C15H22F3N3
